US08445487B2
2-Chloro-9-methyl-6-morpholino-9H-purine-8-carbaldehyde was treated with 1.1 eq 1-(methylsulfonyl)piperazine, 7 eq trimethylorthoformate, 1 eq of acetic acid in 2 mL of dichloroethane for 6 hours upon which 1.1 eq of sodium triacetoxyborohydride was added to the reaction mixture. The reaction mixture was extracted with dichloromethane and water to give crude intermediate 4-(2-chloro-9-methyl-8-((4(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine which was then reacted with 1-(tetrahydro-2H-pyran-2-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole via General Procedure A and purified via reverse phase HPLC to give 41.8 mg 138 as a white solid. MS (Q1) 512.2 (M)+.

reactant | 2-Chloro-9-methyl-6-morpholino-9H-purine-8-carbaldehyde | ClC1=NC(=C2N=C(N(C2=N1)C)C=O)N1CCOCC1 | C11H12ClN5O2
reactant | 1-(methylsulfonyl)piperazine | 1.1 eq | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | trimethylorthoformate | 7 eq | COC(OC)OC | C4H10O3
reactant | acetic acid | 1 eq | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.1 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 4-(2-chloro-9-methyl-8-((4(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine | ClC1=NC(=C2N=C(N(C2=N1)C)CN1CCN(CC1)S(=O)(=O)C)N1CCOCC1 | C16H24ClN7O3S
